US04323566
N-[1-methyl-5-[[2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-1H-1,2,4-triazol-3-yl]formamide
A stirred suspension of 1-methyl-N5 -[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-1H-1,2,4-triazole-3,5-diamine, dihydrochloride (3.83 g) and potassium carbonate (3.04 g) in acetone (60 ml) was heated at reflux for 30 min, and then cooled to 5° C. Aceticformic anhydride (1.32 g) was added and the suspension was allowed to warm up to room temperature. The inorganic material was filtered off and the solution evaporated to give an oil which was chromatographed. The resulting oil was dissolved in ethyl acetate, washed with saturated aqueous sodium bicarbonate and evaporated to afford the title compound (0.47 g) as a colourless oil. tlc System B, Rf 0.61. Nmr. (CDCl3) 0.28 brd, (1H); 0.93 d, (1H); 3.81,s, (2H); 5.25, brt (1H); 6.28,s, (2H); 6.47,s, (3H); 6.52 s+m (2H); 7.16,t, (2H) 7.74,s, (6H).

reactant | 1-methyl-N5 -[2-[[[5-(dimethylamino)methyl-2-furanyl]methyl]thio]ethyl]-1H-1,2,4-triazole-3,5-diamine, dihydrochloride | 3.83 g | Cl.Cl.CN1N=C(N=C1NCCSCC=1OC(=CC1)CN(C)C)N
reactant | potassium carbonate | 3.04 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | N-[1-methyl-5-[[2-[[[5-[(dimethylamino)methyl]-2-furanyl]methyl]thio]ethyl]amino]-1H-1,2,4-triazol-3-yl]formamide | 0.47 g | CN1N=C(N=C1NCCSCC=1OC(=CC1)CN(C)C)NC=O | C14H22N6O2S
